US04071625
A 1 M solution of lithium tri-sec-butylborohydride in tetrahydrofuran under nitrogen is cooled in a dry iceacetone bath to about -78° C. and 19-hydroxy-1α-methyl-5α-androstane-3,17-dione acetate in tetrahydrofuran is slowly added. The reaction mixture is stirred for two hours at this temperature, warmed to 0° C. and stirring continued for an additional two hours. The reaction mixture is decomposed by the addition of a 3 N sodium hydroxide solution followed by the addition of a 30% hydrogen peroxide solution. Care is taken that the solution temperature remains below 10° C. during decomposition. Solid potassium carbonate is added to the reaction mixture and the tetrahydrofuran decanted therefrom. The solid residue is washed with tetrahydrofuran and the combined solutions are dried over sodium sulfate, filtered and evaporated to dryness. The residue is crystallized from an acetone-hexane solution to yield 1α-methyl-5α-androstane-3α,17β,19-triol 19-acetate.

reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | 19-hydroxy-1α-methyl-5α-androstane-3,17-dione acetate | C(C)(=O)O.OC[C@]12[C@H](CC(C[C@@H]1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O)C
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1α-methyl-5α-androstane-3α,17β,19-triol 19-acetate | C(C)(=O)OC[C@]12[C@H](C[C@H](C[C@@H]1CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O)C | C22H36O4
